US08242104B2
To a solution of 9-bromo-2-(1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (0.237 g, 0.716 mmol) and Cesium Carbonate (0.280 g, 0.859 mmol) in N,N-Dimethylformamide (4.74 mL, 61.2 mmol) was added Isopropyl iodide (0.0859 mL, 0.859 mmol). The reaction was stirred 18 h at 50 C. The reaction was quenched with water then extracted EtOAc 2×. The crude product was purified to give 9-bromo-2-(1-isopropyl-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine. MS: (ESI+)=373.1

reactant | 9-bromo-2-(1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.716 mmol, 0.237 g | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C=3NC=CN3)C=C1 | C14H11BrN4O
reactant | Cesium Carbonate | 0.859 mmol, 0.280 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-Dimethylformamide | 61.2 mmol, 4.74 mL | CN(C=O)C | C3H7NO
reactant | Isopropyl iodide | 0.859 mmol, 0.0859 mL | C(C)(C)I | C3H7I
product | 9-bromo-2-(1-isopropyl-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C=3N(C=CN3)C(C)C)C=C1 | C17H17BrN4O
